US09193692B2
G. 3-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene-1,2-diamine
A solution of 2-Methyl-6-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (5.3 g, 19.06 mmol) in methanol (50 mL) was purged with nitrogen gas. Palladium on carbon (10% by wt, 50 mg) was added and the reaction mixture was stirred under a hydrogen balloon for 16 h. The reaction was filtered through Celite and the filter cake was rinsed with methanol. The filtrate was concentrated and the resulting material was purified by silica gel column chromatography (0-100% ethyl acetate in hexanes) to give a dark oil. The oil was triturated with 10% ether in hexanes to give a tan colored solid (4.2 g, 16.9 mmol, 89% yield). MS (ESI) m/z 248.9 [M+1]+.

reactant | 2-Methyl-6-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 19.06 mmol, 5.3 g | CC1=C(N)C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-] | C13H19BN2O4
solvent | methanol | 50 mL | CO | CH4O
catalyst | Palladium on carbon | 50 mg | [Pd] | Pd
product | 3-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene-1,2-diamine | 16.9 mmol, 4.2 g, 89% yield | CC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)N)N | C13H21BN2O2
